US07253286B2
4-(4-(3-Ethylureido)-3-fluoro-phenoxy)-7-methoxyquinoline-6-carboxylic acid (2-cyanoethyl)amide
4-(4-(3-Ethylureido)-3-fluoro-phenoxy)-7-methoxyquinoline-6-carboxylic acid (40 mg) was treated with cyanoethylamine, triethylamine and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate in the same manner as Example 634, to obtain the title compound (29 mg) as a solid.

reactant | 4-(4-(3-Ethylureido)-3-fluoro-phenoxy)-7-methoxyquinoline-6-carboxylic acid | 40 mg | C(C)NC(NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=C1)F)=O | C20H18FN3O5
reactant | cyanoethylamine | C(#N)CCN | C3H6N2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(4-(3-Ethylureido)-3-fluoro-phenoxy)-7-methoxyquinoline-6-carboxylic acid (2-cyanoethyl)amide | 29 mg | C(#N)CCNC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NCC)F | C23H22FN5O4
